US05143929
To room temperature suspension of (Z)-5-[[2-[(2,6-dichloro-3-methylphenyl)amino]phenyl]methylene]-2-thioxo-4-thiazolidinone (3.177 g, 8.04 mmols) in 125 mL of ethanol is added Hunig's base (1.57 mL, 9.03 mmols) followed by iodomethane (600 μL, 9.63 mmols). After stirring at room temperature overnight the yellow solid is collected by filtration to give 2.861 g (87%) of (Z)-5-[[2-[(2,6-dichloro-3-methylphenyl)amino]phenyl]methylene]-2-(methylthio)-4(5 H)-thiazolone. An analytical sample is obtained by recrystallization from hexane-ethyl acetate; mp 233°-236° C. Calc'd for C18H14Cl2N2OS2:

reactant | (Z)-5-[[2-[(2,6-dichloro-3-methylphenyl)amino]phenyl]methylene]-2-thioxo-4-thiazolidinone | 8.04 mmols, 3.177 g | ClC1=C(C(=CC=C1C)Cl)NC1=C(C=CC=C1)\C=C/1\C(NC(S1)=S)=O | C17H12Cl2N2OS2
reactant | Hunig's base | 9.03 mmols, 1.57 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | iodomethane | 9.63 mmols, 600 μL | IC | CH3I
solvent | ethanol | 125 mL | C(C)O | C2H6O
product | (Z)-5-[[2-[(2,6-dichloro-3-methylphenyl)amino]phenyl]methylene]-2-(methylthio)-4(5 H)-thiazolone | 2.861 g, 87% | ClC1=C(C(=CC=C1C)Cl)NC1=C(C=CC=C1)\C=C/1\C(N=C(S1)SC)=O | C18H14Cl2N2OS2
